US05298649
(Z)-3-(4-hydroxy-3-methoxy-5-propyl-1-naphthyl)-2-methylpropenoic acid
196.5 g of ethyl (E)-3-(3-methoxy-4-methoxymethoxy-5-propyl-1-naphthyl)-2-methylpropenoate was dissolved in 2.6 liters of acetone and irradiated with light from a high pressure mercury lamp through a Pyrex filter for 2.5 hours. The reaction mixture was concentrated in vacuo and purified by silica gel column chromatography (3% ethyl acetate/hexane) to obtain 59.2 g of the titled compound as a pale yellow oil. At the same time, 136.4 g of a mixture of the E and Z isomers was recovered.

reactant | ethyl (E)-3-(3-methoxy-4-methoxymethoxy-5-propyl-1-naphthyl)-2-methylpropenoate | 196.5 g | COC=1C=C(C2=CC=CC(=C2C1OCOC)CCC)/C=C(/C(=O)OCC)\C | C22H28O5
solvent | acetone | 2.6 liters | CC(=O)C | C3H6O
product | (Z)-3-(4-hydroxy-3-methoxy-5-propyl-1-naphthyl)-2-methylpropenoic acid | 59.2 g | OC1=C(C=C(C2=CC=CC(=C12)CCC)\C=C(/C(=O)O)\C)OC | C18H20O4
